* C:\Users\48532\Desktop\Pliki_praca_dyplomowa\schematy_symulacyjne\Symulacja_AC_DEC.asc
R1 N005 0 1k
R2 Vout N005 1k
V1 VCC 0 3.7V
XU1 N005 Vref VCC 0 Vref AD8538
XU2 VCC Vout VCC N006 Vout 0 ADP7118 Vref=3.3
C1 N006 0 1nF
C2 Vout 0 2.2µF
R5 WYJ Vref 51k
R6 TP4 TP3 6200
C3 TP4 Vref 0.1µ
XU4 WYJ TP2 3.3 0 TP2 AD8538
XU5 Vref N003 3.3 0 TP3 AD8538
R7 N003 TP2 250
R8 TP3 N003 40k
V3 3.3 0 3.3V
C4 WYJ P001 0.47µ
R9 N002 N004 4.7K
R10 N002 N004 49.8K
XU6 N001 0 N002 N004 3.3 0 P001 Vref AD623
V_in N001 0 SINE(0 0.000010 128) AC 0.000010
.opt reltol=0.01
.opt abstol=1e-12
.opt vntol=1e-6
.opt gmin=1e-12
.ac dec 20 1 10k
.lib ADI.lib
.lib ADP7102.lib
.lib C:\Users\48532\Downloads\ad623.cir
.backanno
.end
